US04237144
A benzene mixture (250 ml.) containing 6,7-dichloro-2,3-dihydro-5-(2-thenoyl)benzofuran-2-carboxaldehyde (3.2 g., 0.01 mole), p-toluenesulfonic acid (0.2 g.) and ethyleneglycol (15 ml.) is heated under reflux for three hours. The water formed in the reaction is co-distilled with the benzene and is removed by a Dean-Stark apparatus. After three hours, the reaction mixture is cooled, washed twice with dilute sodium bicarbonate (2×50 ml.) once with water (50 ml.) and dried over magnesium sulfate. The solvent is evaporated under reduced pressure to give the 6,7-dichloro-2,3-dihydro-5-(2-thenoyl)benzofuran-2-carboxaldehyde ethyleneacetal.

reactant | 6,7-dichloro-2,3-dihydro-5-(2-thenoyl)benzofuran-2-carboxaldehyde | 0.01 mole, 3.2 g | ClC1=C(C2=C(CC(O2)C=O)C=C1C(C1=CC=CS1)=O)Cl | C14H8Cl2O3S
reactant | p-toluenesulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethyleneglycol | 15 ml | C(CO)O | C2H6O2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 6,7-dichloro-2,3-dihydro-5-(2-thenoyl)benzofuran-2-carboxaldehyde ethyleneacetal | C1COC(C2OC3=C(C2)C=C(C(=C3Cl)Cl)C(C3=CC=CS3)=O)O1 | C16H12Cl2O4S
